US04294960
A solution of 2-(2-formamidothiazol-4-yl)-2-butoxyiminoacetic acid (syn isomer, 1.09 g.), N,N-dimethylformamide (322 mg.) and phosphoryl chloride (675 mg.) in ethyl acetate (9.2 ml.) and a solution of 4-nitrobenzyl 7-amino-3-methoxy-3-cephem-4-carboxylate hydrochloride (1.5 g.), trimethylsilylacetamide (5 g.) and bis(trimethylsilyl)acetamide (2 ml.) in ethyl acetate (30 ml.) were treated in a similar manner to that of Example 3-(1) to give 4-nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-butoxyiminoacetamido]-3-methoxy-3-cephem-4-carboxylate (syn isomer, 1.8 g.).

reactant | 2-(2-formamidothiazol-4-yl)-2-butoxyiminoacetic acid | 1.09 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCCCC | C10H13N3O4S
reactant | phosphoryl chloride | 675 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-nitrobenzyl 7-amino-3-methoxy-3-cephem-4-carboxylate hydrochloride | 1.5 g | Cl.NC1[C@@H]2N(C(=C(CS2)OC)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O
reactant | trimethylsilylacetamide | 5 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | bis(trimethylsilyl)acetamide | 2 ml | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
solvent | ethyl acetate | 9.2 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 322 mg | CN(C=O)C | C3H7NO
product | 4-nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-butoxyiminoacetamido]-3-methoxy-3-cephem-4-carboxylate | 1.8 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)OC)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOCCCC | C25H26N6O9S2
